US05344843
4-[6-[2,3-bis-(Phenylmethoxy)phenyl]hexyloxy]-alpha-oxobenzeneacetic acid ethyl ester (0.5 g) in methanol (50 mL) was treated with sodium carbonate (0.121 g) in water (2 mL), and the reaction was stirred at room temperature for 3 hours. After the solvents were removed in vacuo, dichloromethane and water were added and the mixture was acidified with 3N hydrochloric acid. The dried (Na2SO4) organic layer was evaporated to yield 0.4 g of 4-[6-[2,3-bis-(phenylmethoxy)phenyl]hexyloxy]-alpha-oxobenzeneacetic acid as an oil.

reactant | 4-[6-[2,3-bis-(Phenylmethoxy)phenyl]hexyloxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.5 g | C(C)OC(C(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C36H38O6
reactant | sodium carbonate | 0.121 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 4-[6-[2,3-bis-(phenylmethoxy)phenyl]hexyloxy]-alpha-oxobenzeneacetic acid | 0.4 g | C1(=CC=CC=C1)COC1=C(C=CC=C1OCC1=CC=CC=C1)CCCCCCOC1=CC=C(C=C1)C(C(=O)O)=O | C34H34O6
